US06972288B1
4-[(3-Bromophenyl)amino]-7-(3-hydroxy-propyloxy)-6-nitro-quinazoline
5.60 g tetrabutylammonium fluoride-trihydrate are added to 2.50 g of 4-[(3-bromophenyl)amino]-7-[3-(tert. butyldimethylsilyloxy)-propyloxy]-6-nitro-quinazoline in 25 ml of tetrahydrofuran. The reaction mixture is stirred for about 2 hours at ambient temperature. After the cleavage is complete, the reaction mixture is combined with 150 ml of a 2% ammonium chloride solution and cooled in the ice bath. A yellow precipitate is formed which is suction filtered and washed with water. The precipitate, while still damp, is dissolved in methylene chloride/methanol (6:4), dried over sodium sulphate and concentrated by evaporation. The yellow residue is stirred with a little petroleum ether and suction filtered, washed with petroleum ether and dried in vacuo. Yield: 1.29 g (66% of theory) Rf value: 0.63 (silica gel, methylene chloride/methanol=9:1) Mass spectrum (ESI*): m/z=417, 419 [M−H]−

reactant | tetrabutylammonium fluoride-trihydrate | 5.60 g | CCCC[N+](CCCC)(CCCC)CCCC.O.O.O.[F-]
reactant | 4-[(3-bromophenyl)amino]-7-[3-(tert. butyldimethylsilyloxy)-propyloxy]-6-nitro-quinazoline | 2.50 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OCCCO[Si](C)(C)C(C)(C)C | C23H29BrN4O4Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-[(3-Bromophenyl)amino]-7-(3-hydroxy-propyloxy)-6-nitro-quinazoline | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OCCCO | C17H15BrN4O4
